Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
knee pain
 
Major Surgical or Invasive Procedure:
Left knee arthrocentesis x2

 
History of Present Illness:
Mrs. ___ is a ___ ___ woman with hx EIN and
fibroid uterus s/p TAH-BS who presents with L knee pain. 

She was evaluated in the ED on ___ for the same complaint. At
that time she reported 1 week of gradually worsening L knee pain
and swelling. X-rays showed no evidence of fracture. WBC was 
wnl,
CRP was 41. She was discharged on Tylenol and Ibuprofen with 
plan
to follow up with her PCP and ___. 

Today she re-presented to the ED with worsening left knee pain,
swelling and warmth since discharge. She describes pain that is
___ radiating to the thigh and down the leg, with pain worse 
at
the medial and lateral aspects of the knee. She denies any 
trauma
to the knee. 

In the ED:
- Initial vital signs were notable for:
T 98.5  HR 84  BP 117/88  RR 18  SaO2 99% RA 
- Exam notable for:
"Con: In no acute distress
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Resp: Clear to auscultation
CV: Regular rate and rhythm, normal ___ and ___ heart sounds, no
___ heart sound, no JVD, no pedal edema, 2+ distal upper
extremity and lower extremity pulses. Capillary refill less than
2 seconds.
Abd: Soft, Nontender, Nondistended
GU: No costovertebral angle tenderness
MSK: Left anterior, lateral and posterior knee swelling, warmth,
mild redness, range of motion limited by pain. No cyanosis,
clubbing or edema
Skin: No rash, Warm and dry, No petechiae
Neuro: Alert and following commands, moving all extremities
spontaneously, sensation intact to light touch, speech fluent
Psych: Normal mood/mentation"

- Labs were notable for:
Hb 10.8, WBC 9.7, plt 395
CRP 105
Cr 0.5
Joint Fluid: WBC ___, RBC 1393, Poly 76%, Lymph 18%, no
crystals

- Studies performed include:

Knee 3-View
Persistent moderate to large left suprapatellar effusion. No
fracture.

LLE Doppler
No evidence of deep venous thrombosis in the left lower 
extremity
veins.

Arthrocentesis performed with of aspiration of 60 cc clear 
fluid.

- Patient was given:
___ 17:26 PO/NG OxyCODONE (Immediate Release) 5 mg 
___ 21:25 PO Acetaminophen 1000 mg  
___ 21:25 PO Ibuprofen 600 mg 
___ 22:33 PO OxyCODONE (Immediate Release) 5 mg 
___ 23:18 IVF  LR Started 125 mL/hr 
___ 07:31 PO OxyCODONE (Immediate Release) 5 mg  

- Consults:
Ortho: 
Discussed at rounds. Would like time for cultures to grow and
keep patient. Either:
 1. Obs pt. in ED for ___ hours to watch cultures
 2. If unable to obs, admit to medicine for following of 
cultures
and possible rheum workup

Vitals on transfer: 
T 98.0  HR 72  BP 100/65  RR 18  SaO2 99% RA 

Upon arrival to the floor, the patient complains of severe left
knee pain. She endorses the above history and adds that she has
been having diarrhea for the past several months, up to 7 BM
daily, although this stopped in the past few days. She also
reports L shoulder pain for the past week that is now improving,
as well as R buttock pain that is chronic. 

 
Past Medical History:
Endometrial intraepithelial neoplasia
Uterine fibroid
Endometriosis
S/p total laparoscopic hysterectomy and bilateral salpingectomy
___
 
Social History:
___
Family History:
Mother - GI bleed
No hx malignancy or autoimmune disorders
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: ___ 1540 Temp: 98.5 PO BP: 100/64 L Lying HR: 89 
RR:
18 O2 sat: 96% O2 delivery: Ra 
GENERAL: ___ only, appears uncomfortable, holding
her knee, alert and oriented
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness. + R SI
joint tenderness on palpation. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: L knee warmer than R with significant edema, mild
erythema, tenderness to palpation diffusely. No ___ edema, pulses
intact bilaterally, warm feet. 
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 1444)
    Temp: 98.1 (Tm 98.2), BP: 98/67 (98-105/65-72), HR: 68
(68-79), RR: 20 (___), O2 sat: 98% (97-98), O2 delivery: Ra   
GENERAL: ___ only, appears comfortable, alert and
oriented
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing. 
ABDOMEN: Normal bowels sounds, non distended, soft abd.
EXTREMITIES: L knee warmer than R with significant swelling.  No
erythema. No pitting edema. Tenderness to palpation diffusely.
Can bend knee only until about 100 degrees. No ___ edema, pulses
intact bilaterally, warm feet. 
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. AOx3.
 
Pertinent Results:
ADMISSION LABS:
====================
___ 05:20PM BLOOD WBC-9.7 RBC-3.53* Hgb-10.8* Hct-34.0 
MCV-96 MCH-30.6 MCHC-31.8* RDW-12.7 RDWSD-44.6 Plt ___
___ 05:20PM BLOOD Neuts-70.7 Lymphs-14.7* Monos-13.5* 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-6.88* AbsLymp-1.43 
AbsMono-1.31* AbsEos-0.05 AbsBaso-0.02
___ 05:20PM BLOOD ___ PTT-28.6 ___
___ 05:20PM BLOOD Glucose-118* UreaN-9 Creat-0.5 Na-139 
K-4.1 Cl-103 HCO3-22 AnGap-14
___ 10:29AM BLOOD Free T4-1.0
___ 10:29AM BLOOD TSH-1.2
___ 05:20PM BLOOD CRP-105.0*

DISCHARGE LABS:
=====================
___ 07:50AM BLOOD WBC-5.0 RBC-3.39* Hgb-10.7* Hct-33.4* 
MCV-99* MCH-31.6 MCHC-32.0 RDW-12.7 RDWSD-45.3 Plt ___
___ 07:50AM BLOOD Glucose-92 UreaN-7 Creat-0.5 Na-139 K-4.4 
Cl-105 HCO3-24 AnGap-10
___ 07:50AM BLOOD Calcium-8.7 Phos-3.7 Mg-2.2 UricAcd-4.1

OTHER PERTINENT LABS:
======================
___ 04:14PM BLOOD calTIBC-215* Ferritn-237* TRF-165*
___ 04:14PM BLOOD Calcium-8.8 Phos-3.4 Mg-2.0 Iron-13*
___ 04:14PM BLOOD RheuFac-16* ___

MICROBIOLOGY:
=======================
__________________________________________________________
___ 3:30 pm JOINT FLUID      Source: Knee. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary): 
__________________________________________________________
___ 5:08 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 4:43 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 7:30 pm JOINT FLUID      JOINT TEST. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 
__________________________________________________________
___ 3:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
__________________________________________________________
___ 3:50 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      CANCELLED.    Culture negative as of: ___ AT 20:52. 
         Test canceled/culture discontinued per: ___. 
         PATIENT CREDITED. 

IMAGING:
=====================
___ Imaging UNILAT LOWER EXT VEINS  
No evidence of deep venous thrombosis in the left lower 
extremity veins.

___ Imaging KNEE (AP, LAT & OBLIQUE 
Persistent moderate to large left suprapatellar effusion.  No 
fracture.

___ Imaging PELVIS & SACRO-ILIAC 
There is no evidence of acute fracture or dislocation. There is 
mild 
subchondral sclerosis along the ilial site of the bilateral 
sacroiliac joints 
(right greater than left), which is nonspecific but may 
represent enteropathic 
arthropathy, inflammatory arthropathy or osteitis condensans 
ilii. There are 
no significant degenerative changes in the hips. 

 
Brief Hospital Course:
SUMMARY:
=========================
Ms. ___ is a ___ woman who presented with acute left knee pain 
and swelling. She had arthrocentesis performed which was 
consistent with an inflammatory arthritis. Cultures and gram 
stain were negative. She was treated with Tylenol, ketorolac, 
and oxycodone PRN, transitioned to naproxen and TYlenol on 
discharge. She received a glucocorticoid injection by 
rheumatology.

ACUTE ISSUES:
=========================

# Left knee pain
# Acute inflammatory monoarthritis
The patient presented with approximately 1 week of worsening 
left knee pain and swelling. She was seen by Ortho in the ED and 
underwent arthrocentesis which showed: TNC ___, RBC 1393, 
Polys 76%, Lymph 18%. Gram stain negative, cultures no growth. 
CRP was elevated to 105 (from 41 on initial ED presentation 2 
days prior). Differential initially included septic arthritis 
(although less likely given arthrocentesis results) versus 
inflammatory arthritis such as RA, AS, reactive arthritis, 
versus Lyme infection (although no known tick exposure), versus 
crystal arthropathy (although no crystals seen on initial 
arthrocentesis) versus IBD (history of diarrhea that had 
recently resolved). She was treated with ketorolac and Tylenol 
as well as oxycodone PRN. Her pain was persistent, limiting 
mobility. On ___ Rheumatology was consulted and performed repeat 
arthrocentesis which showed 10,000 WBCs. Intraarticular 
glucocorticoid injection was performed simultaneously. ___, RF, 
and anti-CCP were sent for rheumatologic work-up. RF was 
borderline elevated at 16. Studies pending at discharge were 
___, anti-CCP, Lyme Ab, and urine chlamydia/gonorrhea.

# SI joint pain, possible sacroiliitis
Pt reported R SI joint pain that appears to be chronic and comes 
and goes. She was tender to palpation on exam, thus pelvic x-ray 
was obtained. This showed mild subchondral sclerosis of 
bilateral SI joints, R>L. Her pain was improved with the above 
pain regimen. 

# Mild normocytic anemia
Pt initially had Hb 11.8 on presentation which downtrended 
slightly to the ___. No clinical evidence of bleeding. Iron 
studies showed: iron 13, TIBC 215, ferritin 237, suggesting 
anemia of chronic inflammation.

TRANSITIONAL ISSUES:
=========================
[] Consider repeat CRP in 1 week to monitor trend
[] Follow up studies pending at discharge: ___, anti-CCP, Lyme 
Ab, urine chlamydia/gonorrhea
[] Follow up studies from repeat arthrocentesis on ___: cell 
count, crystals, gram stain, culture
[] Consider HLA-B27 testing given consideration of IBD-related 
arthritis
[] Should follow up with PCP and ___ within the next 
___ weeks
[] The patient was discharged with crutches but is allowed to 
bear weight as tolerated
[] Monitor CBC for anemia. Consider repeat iron studies after 
knee pain/edema resolves. 

MEDICATION CHANGES:
=========================
- Naproxen 500mg BID x1 week standing, then BID as needed for 
knee pain
- Tylenol ___ Q6H PRN for knee pain

CODE STATUS: Full Code
CONTACT:
Name of health care proxy: ___ 
___: Husband 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Naproxen 500 mg PO Q12H 
Standing for 7 days
Then as needed for pain 
RX *naproxen 500 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*60 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute monoarthritis
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You had a swollen, painful knee

What did you receive in the hospital?
- Fluid was removed from the knee and sent for testing
- You did not have an infection in the knee. It is likely 
inflammation. 

What should you do once you leave the hospital?
- Please take your medications as prescribed and go to your 
future appointments which are listed below.
- Take the following medications for pain as needed:
     Naproxen 500mg twice daily as needed
     Tylenol ___ every 6 hours as needed

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___